************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G5_XNOR3_N3
* View Name:     schematic
* Netlisted on:  Mar 28 16:10:39 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G5_XNOR3_N3
* View Name:    schematic
************************************************************************

.SUBCKT G5_XNOR3_N3 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI27 Z AI BI AI CI / TIGFET_PCELL_SP15CP15_N3
XI24 AI Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI29 Z A BI A C / TIGFET_PCELL_SP15CP15_N3
XI25 BI Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI26 CI Vdd C Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI28 Z A B A CI / TIGFET_PCELL_SP15CP15_N3
XI21 AI Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI22 CI Vss C Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI23 BI Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI31 Z AI B AI C / TIGFET_PCELL_SP15CP15_N3
.ENDS

